US07265115B2
tert-butyl 3-(5-chloro-2-pyridinyl)-3,8-diazabicyclo[3.2.1]octane-8-carboxylate
tert-Butyl 3,8-diazabicyclo[3.2.1]octane-8-carboxylate, prepared as described in (J. Med. Chem., (1998) 41, 674), and 2,5-dichloropyridine were processed as described in Example 10A to provide the title compound.

reactant | tert-Butyl 3,8-diazabicyclo[3.2.1]octane-8-carboxylate | C12CNCC(CC1)N2C(=O)OC(C)(C)C | C11H20N2O2
reactant | 2,5-dichloropyridine | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
product | tert-butyl 3-(5-chloro-2-pyridinyl)-3,8-diazabicyclo[3.2.1]octane-8-carboxylate | ClC=1C=CC(=NC1)N1CC2CCC(C1)N2C(=O)OC(C)(C)C | C16H22ClN3O2
